US06051712
400 ml of a 1.2M solution of n-BuLi in hexane were added dropwise within 45 minutes to a solution, cooled to -70° C., of 112.5 g (0.48 mol) of 1,4-dibromobenzene in 1200 ml of diethyl ether in such a manner that the temperature did not rise above -60° C. After completion of the addition the mixture was stirred at -70° C. for 2.5 hours. Thereafter, a solution of 90.84 g (0.48 mol) of 1-benzyl-4-piperidone in 300 ml of ether was added dropwise at -70 to -65° C. during one hour. After the dropwise addition the mixture was stirred at -70° C. for 2 hours. For the working-up, the cold reaction mixture was poured into 1200 ml of a 15% ammonium chloride solution, the mixture was transferred to a separating funnel and the organic phase was separated. The aqueous phase was extracted twice with ether and subsequently the combined organic phases were extracted twice with water and saturated sodium chloride solution. Then, the organic phase was dried over magnesium sulphate evaporated under reduced pressure, with the crude product separating as a yellowish solid. For purification, this was dissolved in hot methylene chloride, the solution was treated with hexane until turbidity began and cooled to room temperature while stirring. The resulting precipitate was filtered off under suction and dried. There were obtained 121.65 g (73% of theory) of 1-benzyl-(4-bromo-phenyl)-piperidin-4-ol as a yellowish solid; m.p.: 106° C., MS: 346, 348 (M+H)+.

reactant | n-BuLi | [Li]CCCC
reactant | 1,4-dibromobenzene | 0.48 mol, 112.5 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | 1-benzyl-4-piperidone | 0.48 mol, 90.84 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | 1200 ml | C(C)OCC | C4H10O
solvent | ether | 300 ml | CCOCC | C4H10O
product | 1-benzyl-(4-bromo-phenyl)-piperidin-4-ol | 121.65 g, 73% | C(C1=CC=CC=C1)N1C(CC(CC1)O)C1=CC=C(C=C1)Br | C18H20BrNO
